US07414061B2
5-Methyl-4-[1-(4-methylsulfanyl-phenyl)-1H-imidazol-4-yl]-3-phenyl-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (112.6 mg, 0.5 mmol) was converted, using 4-methylthiophenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (78 mg, 45%) which was obtained as a white solid. MS (ESI): m/e=348.0 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.5 mmol, 112.6 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 4-methylthiophenylboronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | 5-Methyl-4-[1-(4-methylsulfanyl-phenyl)-1H-imidazol-4-yl]-3-phenyl-isoxazole | 78 mg, 45% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=CC=C(C=C1)SC | C20H17N3OS
